US06521754B2
a) (7-Iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyll ester
(4-Methoxy-benzothiazol-2-yl)-carbamic acid methyll ester (31.0 g, 130 mmol) and sodium acetate (32.3 g, 394 mmol) are dissolved in 400 ml of glacial acetic acid and slowly treated with iodine monochloride (13.5 ml, 264 mmol) at 0° C. The reaction mixture is then slowly warmed to room temperature and stirred for 15 hours. After addition of water (1.3 1), the formed precipitate is filtered off and washed with water. The filter cake is then dissolved in a minimal amount of tetrahydrofurane (about 150 ml) and decolorized with 1M aqueous sodium thiosulfate. The product is precipitated by the addition of water (about 2.0 1), filtered off and dried at 60° C. for 12 hours. 42.3 g (89%) white solid. MS: m/e=364 (M+).

reactant | (4-Methoxy-benzothiazol-2-yl)-carbamic acid | 130 mmol, 31.0 g | COC1=CC=CC2=C1N=C(S2)NC(O)=O | C9H8N2O3S
reactant | sodium acetate | 394 mmol, 32.3 g | C(C)(=O)[O-].[Na+]
reactant | iodine monochloride | 264 mmol, 13.5 ml | ICl | ClI
reactant | water | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | (7-Iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid | IC1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C9H7IN2O3S
